US07951815B2
8-acetyl-1,3-(S)-dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one (1.25 g, 3.3 mmol) was dissolved in ethyl methyl ketone (10 mL), and water (33 μL) and TMSCl (461 μL) were added and the mixture was stirred overnight. The precipitated solid matter was isolated by filtration, washed with diethyl ether, and dried in vacuo. The product 8-acetyl-1,3-(S)-dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride was obtained in a yield of 939 mg (69%).

reactant | 8-acetyl-1,3-(S)-dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one | 3.3 mmol, 1.25 g | C(C)(=O)N1CCC2(N[C@H](C(N2CC2=CC=CC=C2)=O)CC2=CC=CC=C2)CC1 | C23H27N3O2
reactant | water | 33 μL | O | H2O
reactant | TMSCl | 461 μL | C[Si](C)(C)Cl | C3H9ClSi
solvent | ethyl methyl ketone | 10 mL | CC(=O)CC | C4H8O
product | 8-acetyl-1,3-(S)-dibenzyl-1,4,8-triazaspiro[4,5]decan-2-one hydrochloride | Cl.C(C)(=O)N1CCC2(N[C@H](C(N2CC2=CC=CC=C2)=O)CC2=CC=CC=C2)CC1 | InChI=1S/C23H27N3O2.ClH/c1-18(27)25-14-12-23(13-15-25)24-21(16-19-8-4-2-5-9-19)22(28)26(23)17-20-10-6-3-7-11-20;/h2-11,21,24H,12-17H2,1H3;1H/t21-;/m0./s1
